US07173133B2
rac-8-(2-Oxo-cyclohexyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one
A suspension of rac-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one (13.10 g, 56.9 mmol) and 7-oxa-bicyclo[4.1.0]heptane (5.58 g, 56.9 mmol) in ethanol (250 mL) was heated under reflux for 3 days. After cooling to room temperature the mixture was filtered and the filtrate evaporated to afford the title compound (18.14 g, 97%) which was obtained as off-white solid. MS: m/e=329.3 (M+H).

reactant | rac-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 56.9 mmol, 13.10 g | C1(=CC=CC=C1)C1CNC(C12CCNCC2)=O | C14H18N2O
reactant | 7-oxa-bicyclo[4.1.0]heptane | 56.9 mmol, 5.58 g | C12CCCCC2O1 | C6H10O
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | rac-8-(2-Oxo-cyclohexyl)-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 18.14 g, 97% | O=C1C(CCCC1)N1CCC2(C(CNC2=O)C2=CC=CC=C2)CC1 | C20H26N2O2
